US07858621B2
N-(4-Aminomethyl-2-fluoro-phenyl)-methanesulfonamide HCl salt (270 mg, 1.00 mmol) was reacted with (6-trifluoromethyl-pyridin-3-yloxy)-acetic acid (221 mg) to give N-(3-fluoro-4-methanesulfonylamino-benzyl)-2-(6-trifluoromethyl-pyridin-3-yloxy)-acetamide (54 mg, 88%) after recrystallization from Hex/EtOAc.

reactant | N-(4-Aminomethyl-2-fluoro-phenyl)-methanesulfonamide HCl salt | 1.00 mmol, 270 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
reactant | (6-trifluoromethyl-pyridin-3-yloxy)-acetic acid | 221 mg | FC(C1=CC=C(C=N1)OCC(=O)O)(F)F | C8H6F3NO3
product | N-(3-fluoro-4-methanesulfonylamino-benzyl)-2-(6-trifluoromethyl-pyridin-3-yloxy)-acetamide | 54 mg, 88% | FC=1C=C(CNC(COC=2C=NC(=CC2)C(F)(F)F)=O)C=CC1NS(=O)(=O)C | C16H15F4N3O4S
